US07495110B2
Stage 2: N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-{[2-oxo-2-(3,4,5-trimethoxyphenyl)ethyl]thio}-1H-benzimidazole-5-carboxamide
Morpholinomethylpolystyrene resin (acquired from Novabiochem, 2 eq) and 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone are added successively to a solution of N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-thioxo-2,3-dihydro-1H-benzimidazole-5-carboxamide in tetrahydrofuran. The mixture is stirred for 15 hours at approximately 20° C. then tetrahydrofuran, aminomethylpoystyrene resin (2 eq, acquired from Novabiochem) and 4-bromomethylphenoxymethyl-polystyrene resin (3 eq, acquired from Novabiochem) are added. After stirring for 6 hours, the mixture is filtered on frit. The filtrate is then concentrated to dryness under reduced pressure at 40° C. in order to produce the expected compound.

reactant | 2-bromo-1-(3,4,5-trimethoxyphenyl)ethanone | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13BrO4
reactant | N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-thioxo-2,3-dihydro-1H-benzimidazole-5-carboxamide | C(C(C)C)N(C(=O)C1=CC2=C(N(C(N2)=S)CCCN(CCC2=NC=CC=C2)C)C=C1)CC(C)C | C27H39N5OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-{[2-oxo-2-(3,4,5-trimethoxyphenyl)ethyl]thio}-1H-benzimidazole-5-carboxamide | C(C(C)C)N(C(=O)C1=CC2=C(N(C(=N2)SCC(C2=CC(=C(C(=C2)OC)OC)OC)=O)CCCN(CCC2=NC=CC=C2)C)C=C1)CC(C)C | C38H51N5O5S
